* Four-transistor OTA electrical AC testbench.
* The DUT is generated from the typed macro circuit.
I_tail IBIAS VSS 0
V_dd VDD VSS 0
V_n VINN VSS 0
V_p VINP VSS 1
.end
